US06251926B1
A mixture of 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (8.00 g), N-hydroxyphthalimide (4.13 g), potassium carbonate (7.05 g) and N,N-dimethylformamide (80 ml) was stirred at room temperature for 20 hours and water (800 ml) was added. The resultant crystals were filtered and washed with water to obtain N-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide (10.1 g, yield 90%) as pale-brown crystals. m.p. 146-147° C.

reactant | 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 8.00 g | ClCC=1C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=CC1 | C18H16ClNO2
reactant | N-hydroxyphthalimide | 4.13 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 7.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 800 ml | O | H2O
product | N-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide | 10.1 g, yield 90% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C26H20N2O5
